US06268511B1
To a methanol (100 ml) solution of itaconic acid (100 g), benzoyl chloride (4 ml) was added dropwise under stirring. The reaction solution was stirred at 60-70° C. for 20 minutes and then concentrated under reduced pressure. The resulting solid was recrystallized from a mixed solution of benzene and petroleum ether to obtain 4-methyl itaconate (93 g, melting point: 65-67° C.).

reactant | itaconic acid | 100 g | C(C(=C)CC(=O)O)(=O)O | C5H6O4
reactant | benzoyl chloride | 4 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methanol | 100 ml | CO | CH4O
product | 4-methyl itaconate | 93 g | COC(=O)CC(=C)C(=O)O | C6H8O4
